US08865704B2
trans-4-(2,5-Dioxo-1,2,3,5-tetrahydro-benzo[e][1,4]diazepin-4-ylmethyl)-cyclohexanecarboxylic acid
A solution of chloroacetyl chloride (470 μL) in dry DCM (6 mL) was added dropwise to a stirred solution of trans-4-[(2-Amino-benzoylamino)-methyl]-cyclohexanecarboxylic acid methyl ester acetate (3 mmol, 0.850 g) and TEA (9 mmol, 1.2 mL) in dry DCM (44 mL) under argon at 0° C. The mixture was allowed to reach room temperature within 30 minutes. After reaction completion, the reaction mixture was poured into 2N HCl solution (10 mL) and extracted with DCM (3×40 mL). The organic layer was washed with a saturated solution of NaHCO3 (1×30 mL) and brine (2×30 mL). Finally, the solvent was removed under reduced pressure. NaH (60% on mineral oil 13.5 mmol, 0.54 g) was added to a solution of the crude product in dry DMF (11 mL) and the mixture was heated at 80° C. for 4 h, then the reaction mixture was allowed to reach room temperature. A saturated ammonium chloride solution (10 mL) was added to the mixture and the final mixture was washed with DCM (2×20 mL) and then the mixture was acidified with (2 N) HCl and extracted with DCM (3×10 mL). The organic layer was washed with brine (2×10 mL) dried over Na2SO4 anhydrous, concentrated under reduced pressure and filtrate on silica pad. The silica pad was washed 3 times with a DCM-MeOH 95-5 all the washings were collected together and the solvent was removed under reduced pressure to afford the titled compound (0.49 g, yield 57%).

reactant | chloroacetyl chloride | 470 μL | ClCC(=O)Cl | C2H2Cl2O
reactant | trans-4-[(2-Amino-benzoylamino)-methyl]-cyclohexanecarboxylic acid methyl ester acetate | 3 mmol, 0.850 g | C(C)(=O)O.COC(=O)[C@@H]1CC[C@H](CC1)CNC(C1=C(C=CC=C1)N)=O
reactant | HCl | 2N, 10 mL | Cl | ClH
reactant | NaH | 13.5 mmol, 0.54 g | [H-].[Na+]
reactant | ammonium chloride | 10 mL | [Cl-].[NH4+]
solvent | DCM | 6 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 44 mL | C(Cl)Cl | CH2Cl2
solvent | DMF | 11 mL | CN(C)C=O | C3H7NO
product | trans-4-(2,5-Dioxo-1,2,3,5-tetrahydro-benzo[e][1,4]diazepin-4-ylmethyl)-cyclohexanecarboxylic acid | 0.49 g, yield 57% | O=C1CN(C(C2=C(N1)C=CC=C2)=O)C[C@@H]2CC[C@H](CC2)C(=O)O | C17H20N2O4
